US08623859B2
N-[4-(1H-imidazol-1-yl)benzyl]-5-({[(4-methoxy-2,6-dimethylphenyl)sulfonyl](methyl)amino}methyl)-N-methylfuran-3-carboxamide
5-({[(4-Methoxy-2,6-dimethylphenyl)sulfonyl](methyl)amino}methyl)furan-3-carboxylic acid (53 mg, 0.15 mmol) was dissolved in THF (0.5 mL) and CDI (24 mg, 0.15 mmol) added. The reaction was stirred for 2 h prior to addition of 1-[4-(1H-imidazol-1-yl)phenyl]-N-methylmethanamine (25 mg, 0.135 mmol). The reaction was stirred at ambient temperature for 3 days, and diluted with DCM (1 mL) and washed with 2M aqueous K2CO3 (1 mL). The organic layer was dried over MgSO4, the solvent removed in vacuo and a portion of the crude product purified using prep method A.

reactant | 5-({[(4-Methoxy-2,6-dimethylphenyl)sulfonyl](methyl)amino}methyl)furan-3-carboxylic acid | 0.15 mmol, 53 mg | COC1=CC(=C(C(=C1)C)S(=O)(=O)N(C)CC1=CC(=CO1)C(=O)O)C | C16H19NO6S
reactant | CDI | 0.15 mmol, 24 mg | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | 1-[4-(1H-imidazol-1-yl)phenyl]-N-methylmethanamine | 0.135 mmol, 25 mg | N1(C=NC=C1)C1=CC=C(C=C1)CNC | C11H13N3
solvent | THF | 0.5 mL | C1CCOC1 | C4H8O
solvent | DCM | 1 mL | C(Cl)Cl | CH2Cl2
product | N-[4-(1H-imidazol-1-yl)benzyl]-5-({[(4-methoxy-2,6-dimethylphenyl)sulfonyl](methyl)amino}methyl)-N-methylfuran-3-carboxamide | N1(C=NC=C1)C1=CC=C(CN(C(=O)C2=COC(=C2)CN(C)S(=O)(=O)C2=C(C=C(C=C2C)OC)C)C)C=C1 | C27H30N4O5S
